US05208250
5-[[4-Hydroxy-3,5-bis(1-methylethyl)phenyl]methylene]-1-methyl-2,4-imidazolidinedione
Prepared according to the procedure described in Example 92 using 3,5-diisopropyl-4-hydroxybenzaldehyde (2.7 g, 13 mmoles) and 1-methyl hydantoin (1.4 g, 12 mmoles). Recrystallization from acetonitrile gave the pure product (0.4 g), mp 197°-208° C.

reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | 13 mmoles, 2.7 g | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | 1-methyl hydantoin | 12 mmoles, 1.4 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
product | 5-[[4-Hydroxy-3,5-bis(1-methylethyl)phenyl]methylene]-1-methyl-2,4-imidazolidinedione | 0.4 g | OC1=C(C=C(C=C1C(C)C)C=C1C(NC(N1C)=O)=O)C(C)C | C17H22N2O3
